US06111110
(+)-(4aR)-(10bR)-4-methyl-8-bromo-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one (20.0 grams, 64.9 mmole, in 150 mL of tetrahydrofuran) was added to a freshly prepared solution of lithium diisopropylamide in 500 mL of tetrahydrofuran at -20° C. After standing 90 minutes in an ice bath, the resulting amide-enolate solution was cooled to -70° C. and added via cannula over 10 minutes to a freshly mixed solution of n-butyllithium (60.0 mL=2.54 M in hexane, 152 mmole, 2.34 equivalents) at -72 to -75° C. in 300 mL of tetrahydrofuran. The homogeneous solution was allowed to stir at approximately -75° C. for 45 minutes and quenched with dimethyldisulfide (11.0 mL, 123 mmole, 1.9 equiv) at approximately -75° C. After 30 minutes at -75° C., the mixture was treated with acetic acid (18 mL) and all volatiles removed under vacuum. The resulting white solid was treated with 300 mL of heptane-water (1:1, v/v) and the pH adjusted to 3 with 1N hydrogen sulfate. The biphasic mixture was filtered and the wet cake was washed with 1% aqueous sodium bicarbonate (2×50 mL portion) and water (200 mL). The material was dried at 50° C. under vacuum affording (+)-(4aR)-(10bR)-4-methyl-8-methylthio-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one (IR, NMR, MS). Calculated for C16H21NOS: C, 69.77; H, 7.69; N, 5.09. Found C, 69.70; H, 7.62; N, 5.06.

reactant | (+)-(4aR)-(10bR)-4-methyl-8-bromo-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 64.9 mmole, 150 mL, 20.0 grams | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)Br)C)=O | C15H18BrNO
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | n-butyllithium | 152 mmole, 2.54 M, 60.0 mL, 2.34 equivalents | C(CCC)[Li]
reactant | dimethyldisulfide | 123 mmole, 11.0 mL, 1.9 equiv | CSSC | C2H6S2
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | acetic acid | 18 mL | C(C)(=O)O | C2H4O2
product | (+)-(4aR)-(10bR)-4-methyl-8-methylthio-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)SC)C)=O | C16H21NOS
